US08134001B2
To a solution of 5-iodosalicylaldehyde (3 g, 12.1 mmol) (Aldrich) in N,N-dimethylformamide (20 mL) was added anhydrous K2CO3 (5 g, 36.3 mmol), and 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester (5.4 g, 18.1 mmol, ASTATECH). The reaction mixture was heated at 60° C. for 18 h. The mixture was cooled to room temperature, diluted with ethyl acetate, washed with water. The organic layer was separated, the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water, brine, dried over MgSO4, and concentrated to give crude 4-(2-formyl-4-iodo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil (Yield 4.38 g, 84%).

reactant | 5-iodosalicylaldehyde | 12.1 mmol, 3 g | IC1=CC=C(C(C=O)=C1)O | C7H5IO2
reactant | K2CO3 | 36.3 mmol, 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 18.1 mmol, 5.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-formyl-4-iodo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | Yield 4.38 g, 84% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)I)C=O | C17H22INO4
